US05889026
N-[4-(tert-Butyl-dimethyl-silanyloxy )-phenyl]-2-[4-hydroxy-4-(4-methyl-benzyl)-piperidin-1-yl]-acetamide
The title compound, m.p. 136°-138° C. and MS: m/e=468 (M+), was prepared from N-[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-2-chloro-acetamide and 4-(4-Methyl-benzyl)-piperidin-4-ol.

reactant | N-[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-2-chloro-acetamide | C(C)(C)(C)[Si](OC1=CC=C(C=C1)NC(CCl)=O)(C)C | C14H22ClNO2Si
reactant | 4-(4-Methyl-benzyl)-piperidin-4-ol | CC1=CC=C(CC2(CCNCC2)O)C=C1 | C13H19NO
product | N-[4-(tert-Butyl-dimethyl-silanyloxy )-phenyl]-2-[4-hydroxy-4-(4-methyl-benzyl)-piperidin-1-yl]-acetamide | C(C)(C)(C)[Si](OC1=CC=C(C=C1)NC(CN1CCC(CC1)(CC1=CC=C(C=C1)C)O)=O)(C)C | C27H40N2O3Si
